*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/2.20e+00[uF]/10[V]
* Murata P/N :GRM155B31A225ME95
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31A225ME95 Port1 Port2
C01 Port1 N01 1.74e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.67e-10
R03 N02 N03 6.19e-03
C04 N03 N04 3.02e-05
R04 N03 N04 3.07e+02
C05 N04 N05 8.32e-05
R05 N04 N05 9.46e+00
C06 N05 N06 1.20e-04
R06 N05 N06 6.83e-01
C07 N06 N07 1.44e-04
R07 N06 N07 5.29e-02
C08 N07 N08 8.96e-05
R08 N07 N08 8.67e-03
L09 N08 N09 4.00e-11
R09 N08 N09 1.61e-01
L10 N09 N10 1.36e-10
R10 N09 N10 3.10e-02
C11 N10 N11 8.96e-06
L11 N10 N11 2.01e-11
R11 N10 N11 2.16e-03
C12 N11 N12 2.19e-06
L12 N11 N12 4.16e-11
R12 N11 N12 4.77e-03
C13 N12 Port2 1.70e-11
L13 N12 Port2 1.83e-11
R13 N12 Port2 1.64e+00
.ENDS GRM155B31A225ME95
